US04629732
29 g (0.075 mol) of crude 1-bromo-1-(4-chlorophenoxy)-3-methyl-3-trifluoromethylthio-butan-2-one and 16 g (0.25 mol) of 1,2,4-triazole in 150 ml of acetonitrile were heated under reflux for 1 hour. Thereafter, the mixture was concentrated and the residue was taken up with methylene chloride/water. The organic phase was separated off, dried over sodium sulphate and concentrated again. The oil residue was chromatographed. 10.4 g (37% of theory) of 1-(4-chlorophenoxy)-3-methyl-1-(1,2,4-triazol-1-yl)-3-trifluoromethylthio-butan-2-one of melting point 66° C. were obtained.

reactant | 1-bromo-1-(4-chlorophenoxy)-3-methyl-3-trifluoromethylthio-butan-2-one | 0.075 mol, 29 g | BrC(C(C(C)(SC(F)(F)F)C)=O)OC1=CC=C(C=C1)Cl | C12H11BrClF3O2S
reactant | 1,2,4-triazole | 0.25 mol, 16 g | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-(4-chlorophenoxy)-3-methyl-1-(1,2,4-triazol-1-yl)-3-trifluoromethylthio-butan-2-one | 10.4 g, 37% | ClC1=CC=C(OC(C(C(C)(SC(F)(F)F)C)=O)N2N=CN=C2)C=C1 | C14H13ClF3N3O2S
